US08937078B2
Step D: Preparation of 2,7-dichloro-4-(2-methoxy-ethoxymethoxy)-quinazoline.
2-methoxyethoxymethyl chloride (1.0 mL, 8.8 mmol) was added dropwise to a solution of 2,7-dichloro-4-oxoquinazoline (1.7 g, 7.8 mmol), DIEA (2.1 mL, 12 mmol), and THF (20 mL). The reaction was allowed to proceed at rt for 16 h, and then EtOAc was added (250 mL). The solution was washed with water (2×100 mL) and brine (100 mL). The organic layer was then dried and concentrated, and the resulting residue was triturated with EtOH to provide the titled compound (2.0 g, 83%). This material was used directly without further purification.

reactant | 2-methoxyethoxymethyl chloride | 8.8 mmol, 1.0 mL | COCCOCCl | C4H9ClO2
reactant | 2,7-dichloro-4-oxoquinazoline | 7.8 mmol, 1.7 g | ClC1=NC2=CC(=CC=C2C(N1)=O)Cl | C8H4Cl2N2O
reactant | DIEA | 12 mmol, 2.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,7-dichloro-4-(2-methoxy-ethoxymethoxy)-quinazoline | 2.0 g, 83% | ClC1=NC2=CC(=CC=C2C(=N1)OCOCCOC)Cl | C12H12Cl2N2O3
